US04701533
In each of two flasks, 775 mmol (100 g) of 2,3-difluoroaniline were added to 2 L of concentrated hydrochloric acid at -15° C. and treated dropwise with a solution of 852 mmol (58.9 g) of sodium nitrite in 500 mL of water. Ten minutes after the addition, the reaction was treated with 930 mmol (55.8 g) of urea. This was followed by rapid addition of a solution of stannous chloride dihydrate (968 mmol, 220 g) in 700 mL of concentrated hydrochloric acid precooled to -50° C. After 20 minutes, the solid from both reactions was filtered and combined. It was put into 3 L of 1M NaOH (aq) and extracted wtih 4×500 mL of ether. The extracts were combined, dried over MgSO4 and concentrated to afford 110 g of 2,3-difluorophenylhydrazine (763 mmol, 49%).

reactant | 2,3-difluoroaniline | 775 mmol, 100 g | FC1=C(N)C=CC=C1F | C6H5F2N
reactant | sodium nitrite | 852 mmol, 58.9 g | N(=O)[O-].[Na+]
reactant | urea | 930 mmol, 55.8 g | NC(=O)N | CH4N2O
solvent | water | 500 mL | O | H2O
solvent | hydrochloric acid | 700 mL | Cl | ClH
solvent | hydrochloric acid | 2 L | Cl | ClH
product | 2,3-difluorophenylhydrazine | 763 mmol, 110 g, 49% | FC1=C(C=CC=C1F)NN | C6H6F2N2
